US05830892
Sodium azide (14 mg, 0.21 mmol) was added to a solution of [2S,3S]-1-(4-chlorobut-2-yn-1-yl)-2-phenyl-3-[3-(5-methyltetrazol-1-yl)-5-(trifluoromethyl)phenylmethoxy]piperidine (90 mg, 0.18 mmol) in dimethyl sulphoxide (3 ml) and the solution was stirred at room temperature for 16 hours. Saturated aqueous sodium hydrogen carbonate (20 ml) and water (10 ml) were added and and the mixture was extracted with ethyl acetate (3×20 ml). The combined organic fractions were washed with saturated aqueous sodium hydrogen carbonate (4×20 ml) and brine (20 ml), dried (MgSO4) and the solvent was evaporated under reduced pressure to give [2S,3S]-1-(4-azidobut-2-yn-1-yl)-2-phenyl-3-[3-(5-methyltetrazol-1-yl)-5-(trifluoromethyl)phenylmethoxy]piperidine as a yellow oil (89 mg, 98%) 1H (CDCl3) δ 7.54 (2H, s), 7.43-7.08 (6H, m), 4.62 (1H, d, J=13.2 Hz), 4.18 (1H, d, J=13.2 Hz), 3.92 (2H, s), 3.61-3.30 (4H, m), 3.02 (1H, m), 2.69 (1H, m), 2.55 (3H, s), 2.14 (2H, m), and 1.62 (2H, m). m/z 511 (M+H+).

reactant | Sodium azide | 0.21 mmol, 14 mg | [N-]=[N+]=[N-].[Na+]
reactant | [2S,3S]-1-(4-chlorobut-2-yn-1-yl)-2-phenyl-3-[3-(5-methyltetrazol-1-yl)-5-(trifluoromethyl)phenylmethoxy]piperidine | 0.18 mmol, 90 mg | ClCC#CCN1[C@H]([C@H](CCC1)OCC1=CC(=CC(=C1)C(F)(F)F)N1N=NN=C1C)C1=CC=CC=C1 | C25H25ClF3N5O
reactant | sodium hydrogen carbonate | 20 ml | C(O)([O-])=O.[Na+]
reactant | water | 10 ml | O | H2O
solvent | dimethyl sulphoxide | 3 ml | CS(=O)C | C2H6OS
product | [2S,3S]-1-(4-azidobut-2-yn-1-yl)-2-phenyl-3-[3-(5-methyltetrazol-1-yl)-5-(trifluoromethyl)phenylmethoxy]piperidine | 89 mg, 98% | N(=[N+]=[N-])CC#CCN1[C@H]([C@H](CCC1)OCC1=CC(=CC(=C1)C(F)(F)F)N1N=NN=C1C)C1=CC=CC=C1 | C25H25F3N8O
